US07253197B2
2-Bromo-1-(3-methyl-pyrazin-2-yl)-ethanone dihydrobromide
The title compound was synthesised according to Example 4 from 1-(3-Methyl-pyrazin-2-yl)-ethanone and HBr/bromine in 55% yield as grey solid. MS (m/e): 215.0 (M+H, 100%).

reactant | 1-(3-Methyl-pyrazin-2-yl)-ethanone | CC=1C(=NC=CN1)C(C)=O | C7H8N2O
reactant | HBr bromine | Br.BrBr
product | 2-Bromo-1-(3-methyl-pyrazin-2-yl)-ethanone dihydrobromide | 55% yield | Br.Br.BrCC(=O)C1=NC=CN=C1C | InChI=1S/C7H7BrN2O.2BrH/c1-5-7(6(11)4-8)10-3-2-9-5;;/h2-3H,4H2,1H3;2*1H
